US04073799
In accordance with the process of Example 16, potassium t-butoxide (336 mg; 3 m mol), benzyl mercaptan (372 mg; 3 m mol) and 2-oxo-bicyclo 3.1.0! hexane-1-carboxylic acid methyl ester (463 mg; 3 m mol) were used in the reaction, and the reaction product was purified by a silica gel column chromatography with ethyl acetate and n-hexane (1.5; 8.5) to obtain 650 mg of 5-benzylthiomethyl-2-oxo-cyclopentanecarboxylic acid methyl ester as an oil.

reactant | potassium t-butoxide | 336 mg | CC(C)([O-])C.[K+]
reactant | benzyl mercaptan | 372 mg | C(C1=CC=CC=C1)S | C7H8S
reactant | hexane-1-carboxylic acid methyl ester | 463 mg | COC(=O)CCCCCC | C8H16O2
product | 5-benzylthiomethyl-2-oxo-cyclopentanecarboxylic acid methyl ester | 650 mg, Yield: 78% | COC(=O)C1C(CCC1CSCC1=CC=CC=C1)=O | C15H18O3S
